datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.C[C:61]([CH:10]=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62]>>C[C:61]([CH:10]([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:20]([O-:21])=[N:31]C1=CC=CC=C1)=[O:62] 10,11=10,20;20,21=21"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[Si:11]1([H:10])CCC1>>C1=CC=C([C:22](=[CH:21][CH2:20][H:10])[O-:23])C=C1.C[Si+:11]1CCC1 10,11=10,20;20,21=21,22;22,23=23"
"C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1.C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[S+](C)[CH-:10]C1=CC=C([N+](=O)[O-])C=C1>>C[S+](C)[CH:10](C1=CC=C([N+](=O)[O-])C=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10=20
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.[N-]=[N+]=NC[C@@H]1CCC[NH:10]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.[N-]=[N+]=NC[C@@H]1CCC[NH+:10]1[F:20] 10=20;20,21=21"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.C[C:11]1=[CH:10][CH:61]=[C:62](C)[NH:12]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([CH:10]2[C:11](C)=[NH+:12][C:62](C)=[CH:61]2)[N-:21]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>CC[O:33][C:22](=[CH:21][CH:20]([CH2:10][CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCC1)=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10]1([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)CCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([CH:20]=[O:21])C=C1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH:20](C2=CC=CC=C2)[O-:21])CCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.[O:10]=[C:11]1[CH:12]=[CH:13][C:14](=[N+:15]([O-:16])[O-:67])[CH:73]=[CH:72]1>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])[CH:73]=[CH:72]2)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][CH:11]=[N+:12]2[C:63]3=[C:64](C=CC=C3)[C:74]3=[C:73]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1(C)[O:82][C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC1(C)[O:82][C:11](=[O:12])[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1 10,11=10,20;12=11,12"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:63]([O:62][B-:11]([H:10])([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:63]([O:62][B:11]([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64] 10,11=10,20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[CH2:62][Si:63](C)(C)C.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10](C)[CH+:11][CH2:62][Si:63](C)(C)C)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;20,21=21"
